US07842688B2
e) 1-Ethyl-4-methyl-1,3-dihydrobenzimidazol-2-one
A solution of 17.10 g of 4-methyl-1,3-dihydrobenzimidazol-2-one in 250 ml of anhydrous N,N-dimethylformamide is admixed at 0° C. with 4.070 g of sodium hydride dispersion (60%). The reaction mixture is stirred at 0° C. over a further 30 minutes and 7.5 ml of ethyl iodide are added dropwise. The reaction mixture is stirred at 30° C. over 14 hours, poured onto 500 ml of saturated aqueous sodium hydrogencarbonate solution and extracted with ethyl acetate (2×500 ml). The combined organic phases are washed with 500 ml of brine, dried over sodium sulphate and concentrated by evaporation. The title compound is obtained as a brown solid from the residue by means of flash chromatography (SiO2 60F). Rf=0.20 (200:5:1 dichloromethane-methanol-25% conc. ammonia); Rt=3.17.

reactant | 4-methyl-1,3-dihydrobenzimidazol-2-one | 17.10 g | CC1=CC=CC=2NC(NC21)=O | C8H8N2O
reactant | sodium hydride | 4.070 g | [H-].[Na+]
reactant | ethyl iodide | 7.5 ml | C(C)I | C2H5I
reactant | sodium hydrogencarbonate | 500 ml | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
product | 1-Ethyl-4-methyl-1,3-dihydrobenzimidazol-2-one | C(C)N1C(NC2=C1C=CC=C2C)=O | C10H12N2O
